US04531964
5.15 g (0.02 mol) of 2-fluoro-4-chloro-5-isopropoxycarbonylphenyl isocyanate were added to a solution of 3.2 g (0.02 mol) of ethyl pipecolate dissolved in 30 ml of benzene. The mixture was stirred at a temperature of 40° to 50° C. for an hour, washed with water, dried over anhydrous sodium sulfate, and then concentrated. The resulting crystals were recrystallized from a mixed solvent of n-hexane and ethyl acetate to give 6.9 g (yield 83.2%) of 1-(2-fluoro-4-chloro-5-isopropoxycarbonylphenyl)aminocarbonyl-2-ethoxycarbonylpiperidine. This compound was dissolved in 70 ml of toluene and hydrogen chloride was blown thereinto. The mixture was stirred at room temperature for three hours, washed with a saturated solution of sodium hydrogen carbonate, washed with water, dried over anhydrous sodium sulfate and then concentrated. The resulting crystals were recrystallized from a mixed solvent of toluene and ethyl acetate to give 2.6 g (yield 71.9%) of the desired product as white crystals with a melting point of 128°-129° C.

reactant | 2-fluoro-4-chloro-5-isopropoxycarbonylphenyl isocyanate | 0.02 mol, 5.15 g | FC1=C(C=C(C(=C1)Cl)C(=O)OC(C)C)N=C=O | C11H9ClFNO3
reactant | ethyl pipecolate | 0.02 mol, 3.2 g | N1C(C(=O)OCC)CCCC1 | C8H15NO2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-(2-fluoro-4-chloro-5-isopropoxycarbonylphenyl)aminocarbonyl-2-ethoxycarbonylpiperidine | 6.9 g, yield 83.2% | FC1=C(C=C(C(=C1)Cl)C(=O)OC(C)C)NC(=O)N1C(CCCC1)C(=O)OCC | C19H24ClFN2O5
